US07786108B2
Step 3. Preparation of (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-nicotinic acid hydrochloride
Add 2 N sodium hydroxide solution (2 mL) to a solution of (S)-5-{5-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-nicotinic acid methyl ester (0.090 g, 0.128 mmol) in methanol (5 mL) and heat at 60° C. for 4 h. After the reaction cools to room temperature, acidify to pH 4 with 2 N hydrochloric acid solution and extract the aqueous mixture with ethyl acetate (3×10 mL). Wash the organic layer with water and brine (10 mL each). Dry the organic layer over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure to provide the title compound as a white solid (0.076 g, 78%). 1H NMR (CDCl3, 300 MHz) δ 1.23-2.34 (m, 1H), 1.57-1.64 (m, 2H), 2.03-2.13 (m, 2H), 2.32 (s, 3H), 2.67-2.73 (m, 1H), 3.04-3.14 (m, 1H), 4.14 (s, 3H), 4.32-4.56 (m, 2H), 4.89-5.10 (m, 2H), 5.67-5.70 (m, 1H), 6.89 (s, 1H), 7.23-7.30 (m, 1H), 7.60-7.70 (m, 3H), 8.45 (s, 1H), 8.89 (s, 1H), 9.22 (s, 1H); ESI MS m/z 688 [C30H26F9N7O2+H]+.

reactant | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
reactant | (S)-5-{5-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-nicotinic acid methyl ester | 0.128 mmol, 0.090 g | COC(C1=CN=CC(=C1)CN1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C31H28F9N7O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-nicotinic acid hydrochloride | 0.076 g, 78% | Cl.FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CC=2C=NC=C(C(=O)O)C2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H26F9N7O2.ClH/c1-16-6-22-24(4-3-5-45(25(22)11-23(16)30(37,38)39)14-18-7-19(26(47)48)13-40-12-18)46(27-41-43-44(2)42-27)15-17-8-20(28(31,32)33)10-21(9-17)29(34,35)36;/h6-13,24H,3-5,14-15H2,1-2H3,(H,47,48);1H/t24-;/m0./s1
